US09212182B2
A RBF was charged with perfluorophenyl 1-(5,6-dichloro-2-methoxypyridin-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (0.68 g, 1.199 mmol) and pyridazin-3-amine (0.137 g, 1.438 mmol). DMSO (2.2 ml) was added to give a solution which was then diluted with THF (7.14 ml). The flask was cooled in an ice-water bath for 15 min, then lithium bis(trimethylsilyl)amide (1M in THF) (2.64 ml, 2.64 mmol) was added dropwise, slowly over 2 min. After 15 min, the mixture was diluted with 1N aq. HCl and EtOAc. The layers were separated, and the aq. layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (100-g SNAP Ultra column, 10-70% of a 3:1 EtOAc/EtOH solution in heptane with 10% DCM as additive). Fractions containing pure product were combined and concentrated to give 1-(5,6-dichloro-2-methoxypyridin-3-yl)-2-oxo-N-(pyridazin-3-yl)-1,2-dihydroquinoline-6-sulfonamide (0.25 g, 0.523 mmol, 43.6% yield) as an off-white solid. m/z (ESI) 478.0 (M+H)+.

reactant | perfluorophenyl 1-(5,6-dichloro-2-methoxypyridin-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 1.199 mmol, 0.68 g | ClC=1C=C(C(=NC1Cl)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C21H9Cl2F5N2O5S
reactant | pyridazin-3-amine | 1.438 mmol, 0.137 g | N1=NC(=CC=C1)N | C4H5N3
reactant | DMSO | 2.2 ml | CS(=O)C | C2H6OS
reactant | lithium bis(trimethylsilyl)amide | 2.64 mmol, 1M, 2.64 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 7.14 ml | C1CCOC1 | C4H8O
solvent | HCl | 1N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(5,6-dichloro-2-methoxypyridin-3-yl)-2-oxo-N-(pyridazin-3-yl)-1,2-dihydroquinoline-6-sulfonamide | 0.523 mmol, 0.25 g, 43.6% yield | ClC=1C=C(C(=NC1Cl)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC=1N=NC=CC1)=O | C19H13Cl2N5O4S
